* source ERS
R_R27         N289288 N289188  15K  
R_R14         0 N289906  470  
Q_Q5         N289288 N289288 N288990 QBC846B 
Q_Q9         N289188 N289096 N290060 QBC846B 
R_R32         N289906 N289096  10k  
R_R3         N289150 N289188  2.2k  
R_R26         0 N288990  100  
R_R8         N289014 N289020  5.6K  
Q_Q1         N289846 N289150 N289774 QBC856B 
Q_Q3         N289272 N289842 N289878 QBC846B 
R_R34         N289136 N289150  4.7k  
R_R29         0 N289846  10k  
Q_Q7         N289906 N289272 N289188 QBC856B 
X_P1         N288996 N298915 N289014 POT PARAMS: SET={SET} VALUE=2K
R_R19         N289188 N289272  1.5k  
R_R10         0 N288996  2K  
Q_Q10         N289096 N290086 0 QBC846B 
R_R20         N289188 N289680  1.5k  
V_V1         N289188 0 26Vdc
R_R28         0 N2896041  100  
Q_Q4         N289680 N289846 N289878 QBC846B 
R_R31         0 N290086  4.7  
R_R12         N290086 N289020  {LOAD}  
Q_Q6         N289878 N289288 N2896041 QBC846B 
R_R9         N289774 N289188  22k  
Q_Q2         N289842 N298915 N289774 QBC856B 
R_R30         0 N289842  10k  
Q_Q11         N289096 N289136 0 QBC846B 
D_D1         0 N289150 BZX84-C2V7 
Q_Q8         N289188 N290060 N289020 QMJD31C 
D_D2         N289188 N2914031 MLED81
D_D3         N289020 N295003 MLED81
R_R35         0 N2914031  2.2k  
R_R36         0 N295003  1.5k  
R_R33         N289136 N2938000  100  
R_R37         N2938000 0  1k  
R_R38         0 N290086  4.7  
R_R39         0 N290086  4.7  
.PARAM  load=650 set=0.5
